US04262005
A solution of 6.9 g 2-(2,4-dichlorophenylimino)imidazolidine and 150 ml ethyl formate was refluxed gently on the steam bath for twenty minutes. The mixture was cooled and filtered to give a white solid. Recrystallisation from propan-2-ol gave the novel compound 1-formyl-2-(2,4-dichlorophenylimino)imidazolidine hydrate, melting point 168°-170° C.

reactant | 2-(2,4-dichlorophenylimino)imidazolidine | 6.9 g | ClC1=C(C=CC(=C1)Cl)N=C1NCCN1 | C9H9Cl2N3
reactant | ethyl formate | 150 ml | C(=O)OCC | C3H6O2
product | 1-formyl-2-(2,4-dichlorophenylimino)imidazolidine hydrate | O.C(=O)N1C(NCC1)=NC1=C(C=C(C=C1)Cl)Cl | InChI=1S/C10H9Cl2N3O.H2O/c11-7-1-2-9(8(12)5-7)14-10-13-3-4-15(10)6-16;/h1-2,5-6H,3-4H2,(H,13,14);1H2
